US07994163B2
N-[4-(6-Bromo-pyridin-3-yl)-thiazol-2-yl]-cyclopropylmethylamine:
Slurry crude 2-bromo-1-(6-bromo-pyridin-3-yl)-ethanone (11.5 g, ca. 48%), N-cyclopropylmethyl thiourea (2.2 g, 16.9 mmol) and sodium bicarbonate (1.7 g, 20 mmol) in ethanol (100 mL) at room temperature. Stir the mixture at reflux for 1 h under a nitrogen atmosphere. Turn off heat and stir the mixture for an additional 16 h at room temperature. Filter the slurry, then wash the solids with ethanol (50 mL), water (2×50 mL) and hexane (excess). Dry the solid in a vacuum oven for 20 h at 50° C. to obtain the title compound as a tan solid (3.2 g, 61% yield over 2 steps). MS (ES+) m/z: 312 (M+2)+.

reactant | 2-bromo-1-(6-bromo-pyridin-3-yl)-ethanone | 11.5 g | BrCC(=O)C=1C=NC(=CC1)Br | C7H5Br2NO
reactant | N-cyclopropylmethyl thiourea | 16.9 mmol, 2.2 g | C1(CC1)CNC(=S)N | C5H10N2S
reactant | sodium bicarbonate | 20 mmol, 1.7 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-[4-(6-Bromo-pyridin-3-yl)-thiazol-2-yl]-cyclopropylmethylamine | 3.2 g, 61% yield | BrC1=CC=C(C=N1)C=1N=C(SC1)NCC1CC1 | C12H12BrN3S
